US07410971B2
1-(2-Cyclooct-1-enylphenyl)piperazine
To a solution of 2-cyclooct-1-enylphenylamine (140 mg, 0.695 mmol) in 1,2-dichlorobenzene (2 mL) was added bis(2-chloroethyl)amine hydrochloride (149 mg, 0.835 mmol), and the mixture was stirred at an external temperature of 200° C. under a nitrogen atmosphere. During the reaction, a nitrogen stream was blown into the reactor to remove the hydrogen chloride gas in the reactor. This procedure was repeated several times. After 9 hours, the mixture was air-cooled to room temperature. Aqueous solution of potassium carbonate, ethyl acetate and methanol were added to the reaction mixture and extraction was performed three times with ethyl acetate. The obtained organic layers were dried over anhydrous sodium sulfate. The desiccant was filtered off and the filtrate was concentrated under reduced pressure. The resultant residue was purified by NH silica gel column chromatography (ethyl acetate/heptane) to give 100 mg of the title compound as a brown oil.

reactant | 2-cyclooct-1-enylphenylamine | 0.695 mmol, 140 mg | C1(=CCCCCCC1)C1=C(C=CC=C1)N | C14H19N
reactant | bis(2-chloroethyl)amine hydrochloride | 0.835 mmol, 149 mg | Cl.ClCCNCCCl
solvent | 1,2-dichlorobenzene | 2 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1-(2-Cyclooct-1-enylphenyl)piperazine | 100 mg | C1(=CCCCCCC1)C1=C(C=CC=C1)N1CCNCC1 | C18H26N2
